US07951826B2
4-(2-Hydroxy-ethoxy)-benzoic acid
4-(2-Hydroxy-ethoxy)-benzoic acid methyl ester (400 mg, 2.04 mmol) is combined with a mixture of 1 N NaOH (3 mL) and MeOH (3 mL) and the mixture is stirred at 80° C. for 1 h. The solvents are evaporated and the resulting residue is dissolved in a small amount of water and acidified with 1 N HCl. The crystals are collected, washed with water, and dried to provide 154 mg (42%) of the titled compound. NMR (DMSO-d6): δ 12.64 (br, 1H), 7.90 (d, 2H, J=8.2 Hz), 7.03 (d, 2H, J=8.2 Hz), 4.93 (br, 1H), 4.07 (t, 2H, J=4.9 Hz), 3.75 (m, 2H).

reactant | 4-(2-Hydroxy-ethoxy)-benzoic acid methyl ester | 2.04 mmol, 400 mg | COC(C1=CC=C(C=C1)OCCO)=O | C10H12O4
reactant | NaOH | 1 N, 3 mL | [OH-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | 4-(2-Hydroxy-ethoxy)-benzoic acid | 154 mg, 42% | OCCOC1=CC=C(C(=O)O)C=C1 | C9H10O4
